US07902367B2
Step 78a) 1-(tert-Butoxycarbonyl)-3-[(4′-chlorobiphenyl-4-yl)methoxymethyl]piperidine
Using 1-(tert-butoxycarbonyl)-piperidin-3-yl methanol (431 mg, 2.00 mmol) and 4′-chloro-4-chloromethylbiphenyl (474 mg, 2.00 mmol), the same procedure was followed as in Step 5a of Example 5 to give 711 mg (86%) of the desired compound as a colorless oil.

reactant | 1-(tert-butoxycarbonyl)-piperidin-3-yl methanol | 2.00 mmol, 431 mg | C(C)(C)(C)OC(=O)N1CC(CCC1)CO | C11H21NO3
reactant | 4′-chloro-4-chloromethylbiphenyl | 2.00 mmol, 474 mg | ClC1=CC=C(C=C1)C1=CC=C(C=C1)CCl | C13H10Cl2
product | 1-(tert-Butoxycarbonyl)-3-[(4′-chlorobiphenyl-4-yl)methoxymethyl]piperidine | 711 mg, 86% | C(C)(C)(C)OC(=O)N1CC(CCC1)COCC1=CC=C(C=C1)C1=CC=C(C=C1)Cl | C24H30ClNO3
